US07423060B2
A mixture of 500 mg (1.497 mmol) 5-[1-(4-Nitro-phenyl)-ethylcarbamoyl]-thiophene-2-carboxylic acid methyl ester, 200 mg palladium on charcoal (10%), 10 ml methanol and 5 ml THF was hydrogenated at 30 mbar for 3 h. The catalyst was filtered off, the solvent was evaporated to give 5-[1-(4-amino-phenyl)-ethylcarbamoyl]-thiophene-2-carboxylic acid methyl ester.

reactant | 5-[1-(4-Nitro-phenyl)-ethylcarbamoyl]-thiophene-2-carboxylic acid methyl ester | 1.497 mmol, 500 mg | COC(=O)C=1SC(=CC1)C(NC(C)C1=CC=C(C=C1)[N+](=O)[O-])=O | C15H14N2O5S
reactant | methanol | 10 ml | CO | CH4O
catalyst | palladium on charcoal | 200 mg | [Pd] | Pd
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 5-[1-(4-amino-phenyl)-ethylcarbamoyl]-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1)C(NC(C)C1=CC=C(C=C1)N)=O | C15H16N2O3S
